US04931436
5,11-Dihydro-11-[[2-[4-(1-piperidinyl)butyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[4-(1-piperidinyl)butyl]piperidine in a yield of 41% of theory. Colourless crystals, m.p. 199°-201° C. (after being recrystallised twice from ethanol using animal charcoal).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[4-(1-piperidinyl)butyl]piperidine | N1(CCCCC1)CCCCC1NCCCC1 | C14H28N2
product | 5,11-Dihydro-11-[[2-[4-(1-piperidinyl)butyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 41% | N1(CCCCC1)CCCCC1N(CCCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C27H35N5O2
